2149-05-15 09:13:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Cholangitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MIDLINE - START [**2149-5-14**] 11:24 PM
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Ms Contin (Oral) (Morphine Sulfate)
   intolerance - d
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2149-5-15**] 04:00 AM
   Vancomycin - [**2149-5-15**] 07:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Signs or concerns for abuse : No
   Pain: [**1-31**] Minimal
   Pain location: improved epigastric discomfort this morning
   Flowsheet Data as of  [**2149-5-15**] 09:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.2
C (97.1
   HR: 68 (68 - 93) bpm
   BP: 100/57(67) {91/50(62) - 108/59(71)} mmHg
   RR: 16 (8 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.2 kg (admission): 68.2 kg
   Height: 61 Inch
             Total In:
             2,522 mL
   PO:
             TF:
   IVF:
   2,522 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    750 mL
   Urine:
   750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,772 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, No(t) Tender: Diminished this morning
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   198 K/uL
   107 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.3 mEq/L
   8 mg/dL
   104 mEq/L
   133 mEq/L
   27.0 %
   23.5 K/uL
        [image002.jpg]
                             [**2149-5-15**]  05:12 AM
   WBC
   23.5
   Hct
   27.0
   Plt
   198
   Cr
   0.8
   Glucose
   107
   Other labs: ALT / AST:36/38, Alk Phos / T Bili:195/6.2, Albumin:2.5
   g/dL, LDH:164 IU/L, Ca++:7.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR--LLL atelectasis noted
   Assessment and Plan
   61 yo female admitted with sepsis and likely biliary source.  She has
   had encouraging response to IVF support and ABX without progression to
   hypotension and need for management for severe sepsis.  HCT has
   remained stable with adequate fluid given and renal function has been
   stabilitzed and patient remains on room air only for support.
   1)Sepsis-Again-->IVF response has been adequate through the night
   delivered peripherally with SBP >100.
   -Zosyn
   -Continue with BP monitoring
   -Will need ERCP to determine reversal of source
   2)Cholangitis-Concerning for possible obstruction from pancreatic head
   mass although stent did appear to be in place and patent on the CT
   scan.  Combination of pain, jaundice, fever is however quite consistent
   with biliary source of acute sepsis.  Has had improved AP,
   Transaminases overnight as well.
   -Continue with broad spectrum abx
   -ERCP planned for this am to confirm stent position and stent function.
   -Fentanyl patch for pain chronically
   ICU Care
   Nutrition: npo this am
   Glycemic Control:
   Lines:
   Midline - [**2149-5-14**] 11:24 PM
   Prophylaxis:
   DVT: Heparin sq
refused by patient after informing of risk of DVT/PE
   including death
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full Code
   Disposition : ICU
   Total time spent: 35

2149-05-16 06:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Cholangitis
   24 Hour Events:
   ERCP done and old [** 80**] had migrated and was impacted against wall of
   duodenum, replaced w/ new [**Last Name (LF) 80**], [**First Name3 (LF) **] pus drained out.  Was on
   peripheral neo during ERCP but off before coming back to the ICU.  Also
   dropped SBP to the 80s and responded to fluid.
   Started on clear liquids
   Pt. refused to have PM labs drawn and AM labs
   Pt. having difficult time coping
   Allergies:
   Ms Contin (Oral) (Morphine Sulfate)
   intolerance - d
   Last dose of Antibiotics:
   Vancomycin - [**2149-5-15**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2149-5-16**] 05:11 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-5-16**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 81 (51 - 88) bpm
   BP: 124/66(80) {90/45(56) - 150/77(97)} mmHg
   RR: 14 (8 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.2 kg (admission): 68.2 kg
   Height: 61 Inch
             Total In:
                                                                  8,854 mL
                                                                    320 mL
   PO:
                                                                    480 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  8,374 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  2,105 mL
                                                                    780 mL
   Urine:
                                                                  2,105 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,749 mL
                                                                   -460 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ////
   Physical Examination
   GENERAL
 A & O x3, irritable
   HEENT
 icteric, dry MM, OP clear
   LUNGS - CTA bilat, no w/r/c, good air movement, resp unlabored, no
   accessory muscle use
   HEART - RRR, no MRG, nl S1-S2
   ABDOMEN - +BS, + mild tenderness/RUQ tenderness, no  guarding, no
   rebound
   EXTREMITIES - WWP, mild edema of right and left had, radial pulse +2,
   1+ edema at the ankles, 1+ DPs
   SKIN - no rashes or lesions
   Labs / Radiology
   Refusing lab draws
   [**2149-5-15**]  05:12 AM
   WBC
   23.5
   Hct
   27.0
   Plt
   198
   Cr
   0.8
   Glucose
   107
   Other labs: ALT / AST:36/38, Alk Phos / T Bili:195/6.2,
   Differential-Neuts:92.4 %, Lymph:4.7 %, Mono:2.5 %, Eos:0.1 %,
   Albumin:2.5 g/dL, LDH:164 IU/L, Ca++:7.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
   61 yo woman w/hx of recently diagnosed inoperable pancreatic cancer
   metastatic to the liver s/p recent ERCP and placement of metal [**Year (4 digits) 80**]
   for enterococcal cholangitis complicated by septic shock who presents
   with fevers, increased WBC, RUQ pain, and jaundice along with a CT of
   the abdomen showing significant enlargement of CBD and intrahepatic
   biliary tree.
   .
   # Cholangitis: Pt + for charcot's triad increased WBC, fever, and RUQ
   pain on admission. Her lactate was normal and she was never hypotensive
   in the ED.  In ED there is concern for possible cholangitis.  On exam
   pt jaundice with epigastric tenderness on day of admission but improved
   the subsequent day.  Pt
s white count trending down and was afebrile in
   the ICU the first evenign. However SBP in the high 80s and low 90s
   overnight when sleeping and received 2.5L of fluid.  Yesterday had ERCP
   showing old [**Year (4 digits) 80**] had migrated and was impacted against wall of
   duodenum. New [**Year (4 digits) 80**] was placed and [**Year (4 digits) **] pus drained out.
   - continue vancomycin &  zosyn would trx for 7 days with 4/16 (after
   the ERCP) being day 1
   -follow bilirubin, pt refused blood draw today
   -follow heart rate and BP
   -pain control good with fentanyl patch and IV dilaudid prn.
   .
   #. Pancreatic cancer: Pt has possible metastatic disease in the liver.
   -continue ursodiol
   -pt getting tx with clinical trial
   -will call out to OMED today
   -pt having trouble coping and would benefit from SW consult
   .
   #. GERD:
   -continue ranitidine and omeprazole
   .
   #. Nicotine abuse:
   -nicotine patch
   .
   # Anemia: decreased significantly overnight the first evening in ICU
   but at baseline from most recent admission (however HCT higher at other
   previous admissions)
   -trend HCT
   .
   # Edema in UE and LE: this is causing pt great distress and she is
   refusing lab draws due to it.   Has improved somewhat with ice packs.
   -continue ice packs prn patient request
   .
   #. FEN -
   -on sips of water, will advance diet per GI recs
   -will try to redraw electrolytes later today
   .
   #. Access
 PICC inly
   .
   #. PPx -
   -DVT ppx with pneumoboots
   -Bowel regimen
   -Pain management with fentanyl patch and PRN dilaudid
   .
   #. Code - Full code confirmed with patient. Patient should have a
   family meeting to discuss goals of care.
   .
   # Communication:  Patient should have a family meeting to discuss goals
   of care
   Husband [**Name (NI) **]: [**Telephone/Fax (1) 5415**] home, [**Telephone/Fax (1) 5416**] cell
   Daughter [**Name (NI) 5417**]: [**Telephone/Fax (1) 5285**]
   There is a particular aunt that pt does not want to have information
   (daughter and husband know who it is ok to communicate with)
   .
   #. Dispo
 Call out to floor if BP stable
   ICU Care
   Nutrition: will likely advance to clears today depending on GI recs
   Glycemic Control:
   Lines:
   Midline - [**2149-5-14**] 11:24 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: omeprazole and ranitidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out to floor